US08222274B2
A 400 mg portion of 5-tert-butyl-N-{[4-(dimethylamino)tetrahydro-2H-thiopyran-4-yl]methyl}-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide was dissolved in 4 ml of chloroform and, under ice-cooling, 210 mg of 3-chloroperbenzoic acid was added, followed by stirring under ice-cooling for 1 hour. Then, 100 mg of 3-chloroperbenzoic acid was added, followed by stirring for 30 minutes. A 10% sodium hydrogen sulfite aqueous solution and a saturated sodium bicarbonate aqueous solution to the reaction solution, followed by extraction with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After evaporation of the solvent under a reduced pressure, the residue was purified by silica gel column chromatography (chloroform:methanol:hexane=1:0:0-100:1:0-50:1:0-30:1:0) to obtain 213 mg of 5-tert-butyl-N-{[4-(dimethylamino)-1-oxidotetrahydro-2H-thiopyran-4-yl]methyl}-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide as a colorless oil. This product was dissolved in 2.5 ml of acetonitrile at 80° C., 44 mg of oxalic acid was added, followed by stirring at the same temperature for 10 minutes and then stirring at room temperature for 2 hours. The resulting solid was collected by filtration and then washed with acetonitrile to obtain 199 mg of 5-tert-butyl-N-{[4-(dimethylamino)-1-oxidotetrahydro-2H-thiopyran-4-yl]methyl}-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide oxalate as a colorless solid.

reactant | 5-tert-butyl-N-{[4-(dimethylamino)tetrahydro-2H-thiopyran-4-yl]methyl}-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide | C(C)(C)(C)C1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)NCC1(CCSCC1)N(C)C | C26H38FN3OS
reactant | 3-chloroperbenzoic acid | 210 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-chloroperbenzoic acid | 100 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-tert-butyl-N-{[4-(dimethylamino)-1-oxidotetrahydro-2H-thiopyran-4-yl]methyl}-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide | 213 mg | C(C)(C)(C)C1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)NCC1(CCS(CC1)=O)N(C)C | C26H38FN3O2S
